Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cough/Hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ dementia and htn who presents with ongoing cough for 3 
weeks.  Cough began while visiting his daughter in ___, 
___.  He arrived there on ___, cough began on ___. 
 ___ was febrile, had general malaise/fatigue, temp taken 
was 102. He then went to physician in ___ who prescribed him 
7 day course of QID antibiotic (he and his wife are unsure of 
which antibiotic it was).  Fevers subsequently resolved, but 
cough and malaise persisted.  Cough is non-productive, no 
hemoptysis.  From ___ he flew to ___, went on river 
boat cruise and flew back this past ___.  He was 
seen by his PCP, ___, in clinic today, he was found to be 
hypotensive with systolic in the ___, with rales left mid 
thorax.  Dr. ___ him to the ER d/t concern for pneumonia. 
 Of note, ___ wife reports he has had poor PO intake for 
past 3 weeks since onset of his illness.  He has not had nasal 
congestion, rhinorrhea, or GERD symptoms with his cough.
 
In the ED, initial vs were: 98.8 73 86/49 18 96% RA.  Triggered 
for hypotenstion, ___ was given 1L NS with normalization of 
blood pressures. Labs were remarkable for normal ___ count 
6.9, H/H 11.4/35.4, BUN/Cr ___, lactate 1.3, negative U/A.  
CXR was negative for pneumonia.  ___ given 750 mg IV 
levofloxacin for presumed pna.
 
On the floor, vs were: T97.8 P66 BP102/55 R18 O2 sat 96% RA.  
___ was resting comfortably in bed, reports ongoing cough, 
but otherwise without complaints.  
 
 
Past Medical History:
-B12 deficiency
-Hypertension.  
-Prostate cancer s/p radical prostatectomy in ___,
-Bilateral cataracts.  He has had cataract extraction with
intraocular lens implants bilaterally, performed by Dr. ___.  His most recent procedure was on the right eye on
___.  His prior procedure was in ___ on the left eye.
-Dementia, alzheimer's type  
-Colonic polyps.   colonoscopy at ___ in 
___.  He had several polyps including an adenoma. 
 
Social History:
___
Family History:
Mother with uterine and breast cancer, sister w/ h/o dementia 
and was in a memory care unit in her later years
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
====================
Vitals: T97.8 P66 BP102/55 R18 O2 sat 96% RA.
General: Skinny elderly male, in NAD, resting comfortably, 
minimally conversant  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes or excoriations noted  
Neuro: A&Ox1, CNII-XII grossly intact, follows commands, moving 
all extremities

DISCHARGE PHYSICAL EXAM:
===================
Vitals: T97.8-98.5 P60 BP96-103/60-65 R18 O2 sat 100% RA.
General: Thin elderly male, in NAD, resting comfortably
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes or excoriations noted  
Neuro: A&Ox1, CNII-XII grossly intact, follows commands, moving 
all extremities
 
Pertinent Results:
LABS:
=======
___ 02:20PM BLOOD WBC-6.9# RBC-3.57* Hgb-11.4* Hct-35.4* 
MCV-99* MCH-31.9 MCHC-32.2 RDW-12.4 Plt ___
___ 07:00AM BLOOD WBC-3.9* RBC-3.20* Hgb-10.0* Hct-32.1* 
MCV-101* MCH-31.4 MCHC-31.2 RDW-13.0 Plt ___
___ 02:20PM BLOOD Neuts-74.0* ___ Monos-6.7 Eos-0.4 
Baso-0.2
___ 02:20PM BLOOD Glucose-100 UreaN-16 Creat-1.1 Na-134 
K-3.9 Cl-98 HCO3-26 AnGap-14
___ 07:00AM BLOOD Glucose-91 UreaN-13 Creat-0.9 Na-140 
K-4.3 Cl-104 HCO3-31 AnGap-9
___ 02:20PM BLOOD Calcium-8.6 Phos-3.3 Mg-1.8
___ 07:00AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.7
___ 02:23PM BLOOD Lactate-1.3
___ 03:44PM URINE Color-Straw Appear-Clear Sp ___
___ 03:44PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG

IMAGING/STUDIES:
=============
CXR (___): FINDINGS: PA and lateral views of the chest were 
provided.  The lungs are hyper inflated. The lungs are clear 
bilaterally without focal consolidation, effusion, or 
pneumothorax.  The cardiomediastinal silhouette is normal.  The 
imaged bony structures are intact.  No free air is seen below 
the right hemidiaphragm.  
IMPRESSION: No acute intrathoracic process.  

MICRO:
=============
Blood Culture (___): Negative as of discharge date
 
Brief Hospital Course:
___ with ongoing cough after being treated with antibiotics for 
presumed URI while visiting ___, found to be hypotensive in 
clinic and rales on physical exam, sent to ED due to concern for 
pneumonia.
 
# Cough: most likely post-viral tussive syndrome.  ___ CXR 
is without focal consolidation, lungs clear to auscultation, has 
no ___ count and afebrile, making pneumonia unlikely.  ___ 
without GERD symptoms, denies nasal congestion or allergies 
making PND less likely etiologies of cough.  He was given single 
dose of IV levaquin in the ED.  Given lack of objective findings 
consistent with pneumonia, was not given antibiotics on arrival 
to medical ward.  ___ remained afebrile during admission.  
Was prescribed guafenisen-dextromethorphan prn for cough.

# Hypotension: Hypotensive to ___ and ___ systolic at clinic and 
in ED. SBPs 120s in ED after IVF.  Given lack of fevers, 
tachycardia, and no ___ count, ___ did not meet SIRS 
criteria.  Hypotension unlikely to be related to infection.  
Most likely related to poor PO intake in setting of ongoing 
dementia, recent travel, and acute illness and taking home 
anti-hypertensive medications.  ___ home lisinopril and 
HCTZ were held during admission.  He was discharged off these 
medications with plan to reassess at ___ follow ___.  ___ was 
ambulating well on day of discharge and BPs were improved.
   
# Dementia: Alzheimer's type. Continued home donepezil and 
memantine.

# Chronic diarrhea:  Followed by Dr. ___ in GI clinic for this. 
 Unclear etiology.  Takes Zenpep at home.  This is non-formulary 
here.  As he was only hospitalized for one night, he was not 
given any alternative agents.

# OSA: uses oral appliance at home.  Per wife, has not been 
using as is lost. Per sleep note from ___, no longer 
having apneic episodes.  No specific intervention was done 
during this admission.

Transitional Issues
=====================
[ ]discharged off home anti-hypertenives, recommend reassessing 
need for these on discharge follow-up appointment on ___ 
with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Memantine 10 mg PO BID 
3. lipase-protease-amylase 20,000-68,000 -109,000 unit oral TID 
4. Donepezil 10 mg PO HS 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Cyanocobalamin 1000 mcg IM/SC MONTHLY 

 
Discharge Medications:
1. Donepezil 10 mg PO HS 
2. Memantine 10 mg PO BID 
3. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
4. lipase-protease-amylase 20,000-68,000 -109,000 unit oral TID 
5. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin 100 mg-10 mg/5 mL 5 mL by mouth 
every six (6) hours Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bronchitis, viral, with persistent cough
Hypotension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you during your admission to ___ 
___.  You were admitted for 
evaulation of cough and low blood pressure.  Your cough is 
likely a post-viral cough.  You have no signs of an acute 
infection that requires treatment at this time.  Your low blood 
pressures improved with IV fluids.  The low blood pressures 
likely occurred due to taking your blood pressure medications in 
the setting of decreased food/liquid intake.  Your blood 
pressure medications (hydrochlorothiazide and lisinopril) were 
stopped while you were in the hospital.  You should not restart 
these until you follow up with your primary care physician, ___. 
___.  In addition, it is recommended you drink plenty of 
fluids when you return to home.  Should you develop fever or 
shortness of breath, please seek evaluation at a medical 
facility or at your nearest emergency department.

We hope you continue to feel better.
- Your ___ Team
 
Followup Instructions:
___